US05399785
Methylmagnesium bromide (35 g) was added to 1,3-dimethoxy-5-benzoyl chloride (100 g) to obtain 1,3-dimethoxy-methylphenone in a yield of 45%. Then, the reduction was conducted by adding water (300 cc), concentrated hydrochloric acid (300 cc) and 1,3-dimethoxy-methylphenone (100 g) to zinc amalgam obtained from zinc (400 g) and mercuric chloride (20 g). Further, concentrated hydrochloric acid (10 to 15 cc) was added every one hour. After the completion of the reaction, the reaction solution was cooled and saturated with sodium chloride, and then extracted with ether to obtain 40 g of 1,3-dimethoxy-5-methylbenzene. Hydrogen iodide was added to the resulting 1,3-dimethoxy-5-methylbenzene and stirred at 115° to 125° C. for 3 hours under nitrogen atmosphere. After cooling, the product was extracted with methylene chloride to obtain 30 g of 5-methylresorcinol.

reactant | Hydrogen iodide | I | HI
reactant | 1,3-dimethoxy-5-methylbenzene | COC1=CC(=CC(=C1)C)OC | C9H12O2
product | 5-methylresorcinol | 30 g | CC=1C=C(C=C(O)C1)O | C7H8O2
